US04209621
5-(m-Fluorophenyl)-2-pyrimidinol
By the procedure described in Example 4, (m-fluorophenyl)formimidoylacetaldehyde is reacted with urea to give the product of the Example (recrystallized from methanol), m.p. 259°-261° C.

reactant | (m-fluorophenyl)formimidoylacetaldehyde | FC=1C=C(C=CC1)C(=N)CC=O | C9H8FNO
reactant | urea | NC(=O)N | CH4N2O
reactant | methanol | CO | CH4O
product | 5-(m-Fluorophenyl)-2-pyrimidinol | FC=1C=C(C=CC1)C=1C=NC(=NC1)O | C10H7FN2O
